Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Metoclopramide / metronidazole / Pentasa
 
Attending: ___
 
Chief Complaint:
R sided abdominal, flank, and back pain
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
Ms. ___ is a ___ yo female presenting to the ___ ED with
acute onset right-sided abdominal, flank, and back pain 
beginning
at 1:45PM this afternoon (___).  Her husband reports her
feeling under the weather for the past couple days with vague
abdominal symptoms, but neither party was concerned until the
sudden, sharp pain this afternoon she experienced after eating
lunch at work today. She feels mildly nauseous at present.  She
denies any fevers, chills, diarrhea, or vomiting. If anything,
she has been slightly constipated recently. She also denies any
urinary symptoms or a history of gynecological problems in the
past.  She does not believe she is pregnant, her last period was
2 weeks ago. She cannot recall any trauma or muscle strains to
her right side in recent history.

Of note, she has a history of Crohn's Disease which presented
first in ___.  She follows with Dr. ___. She experienced 
a
prior episode of R sided abdominal pain in ___. During that
time, she was worked up and found to have an incidental finding
showing mild thickening and enhancement of the appendix with
surrounding edema consistent with appendicitis and mild residual
inflammation in the distal terminal ileum without evidence of 
IBD
progression or stricturing.  She was treated for appendicitis at
that time with antibiotics and recovered. A colonoscopy 
performed
___ showed ulcerations in the distal terminal ileum  and
opening of the appendix.  She has been on budesonide to control
her disease with good effect, however has been tapering off of
her medications to transition to Humira, which she plans to 
begin
on ___.  As such, she has been on limited medication to
control her Crohn's disease in recent days.
 
Past Medical History:
GERD
Crohn's Disease
Vitamin D Deficiency
ASCUS w/ HPV neg
Migraines w/o aura
 
Social History:
___
Family History:
Celiac disease in uncle, cousin, maternal grandmother, sister
___ CA in maternal aunt (___), grandparents (___), 3 maternal
cousins
 
Physical ___:
98.1 107 ___ 95% RA 
GEN: A&O, NAD seen laying in hospital bed
HEENT: No scleral icterus, mucus membranes moist
ABD: Soft, nondistended, tender to palpation in suprapubic area,
RLQ, R of umbilicus, R flank, R back beneath ribs, no rebound or
guarding, no palpable masses
EXT: no edema
 
Pertinent Results:
___ 06:05AM BLOOD WBC-6.2 RBC-4.00 Hgb-11.2 Hct-34.8 MCV-87 
MCH-28.0 MCHC-32.2 RDW-12.2 RDWSD-39.1 Plt ___
___ 09:40AM BLOOD WBC-8.4 RBC-4.04 Hgb-11.5 Hct-35.6 MCV-88 
MCH-28.5 MCHC-32.3 RDW-12.2 RDWSD-39.0 Plt ___
___ 03:36PM BLOOD WBC-8.1 RBC-4.08 Hgb-11.5 Hct-36.0 MCV-88 
MCH-28.2 MCHC-31.9* RDW-12.1 RDWSD-38.6 Plt ___
___ 06:05AM BLOOD Neuts-53.6 ___ Monos-8.1 Eos-2.6 
Baso-0.5 Im ___ AbsNeut-3.33 AbsLymp-2.17 AbsMono-0.50 
AbsEos-0.16 AbsBaso-0.03
___ 09:40AM BLOOD Neuts-75.1* Lymphs-17.2* Monos-6.3 
Eos-1.0 Baso-0.2 Im ___ AbsNeut-6.27* AbsLymp-1.44 
AbsMono-0.53 AbsEos-0.08 AbsBaso-0.02
___ 03:36PM BLOOD Neuts-71.5* ___ Monos-5.0 
Eos-0.9* Baso-0.5 Im ___ AbsNeut-5.82 AbsLymp-1.77 
AbsMono-0.41 AbsEos-0.07 AbsBaso-0.04
___ 06:05AM BLOOD Plt ___
___ 09:40AM BLOOD Plt ___
___ 03:36PM BLOOD Plt ___
___ 06:05AM BLOOD Glucose-67* UreaN-7 Creat-0.5 Na-141 
K-4.4 Cl-102 HCO3-24 AnGap-15
___ 03:36PM BLOOD Glucose-93 UreaN-11 Creat-0.8 Na-143 
K-4.1 Cl-106 HCO3-24 AnGap-13
___ 03:36PM BLOOD ALT-13 AST-15 AlkPhos-61 TotBili-0.2
___ 03:36PM BLOOD Lipase-50
___ 06:05AM BLOOD Calcium-8.6 Phos-4.0 Mg-2.0
___ 03:36PM BLOOD Albumin-3.9 Calcium-8.7 Phos-3.0 Mg-2.0
___ 03:36PM BLOOD CRP-16.7*
 
Brief Hospital Course:
The patient presented to the Emergency Department on ___. 
Her assessment at that time is as follows: Ms. ___ is a ___ 
year old female with a history of Crohn's Disease presenting 
with acute onset R abdominal, flank, and back
pain.  At this time, her pain does not seem to localize 
specifically to her RLQ and her history of acute onset pain 
appears inconsistent with a diagnosis of acute appendicitis.  
Given the lack of evidence, nonoperative management and
monitoring of clinical status is warranted in this patient 
currently. Her hospital course is outlined below. 
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was controlled.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: GI was consulted: Ddx includes constipation with gas 
pocket,
nephrolithiasis, active crohn's with more proximal small bowel
disease (although unlikely). Additionally, it was recommended 
that she take ___ cup of miralax ___ and follow up with her 
GI doctor in ___ few days for further outpatient evaluation
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Nortriptyline 40 mg PO QHS 
2. RABEprazole 20 mg oral QPM 

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO ___ Constipation  
take ___ to 1 cup ___  
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 powder(s) 
by mouth once a day Refills:*0 
2.  Nortriptyline 40 mg PO QHS  
3.  RABEprazole 20 mg oral QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gas pocket causing pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ and 
underwent observation for right sided abdominal pain. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

 
Followup Instructions:
___